US07205384B2
{1-[Imino-(4-methoxy-2,3,6-trimethyl-benzenesulfonylamino)-methyl]-2-oxo-piperidin-3-yl}-carbamic Acid tert-butyl Ester
To a solution of Boc-Arg(Mtr)-OH (0.973 g, 2 mmol) and triethylamine (2.02 g, 20 mmol) in CH2Cl2 was added SOCl2 (2.38 g, 20 mmol) at 0° C. The resulting dark brown slurry was stirred at room temperature for 2 hours. The reaction mixture was sampled into methanol and analyzed by HPLC and MS analysis. The major product was identified as the title compound.

reactant | Boc-Arg(Mtr)-OH | 2 mmol, 0.973 g | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(OC)C(C)=C1C)=N)C(=O)O)C(=O)OC(C)(C)C | C21H34N4O7S
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | SOCl2 | 20 mmol, 2.38 g | O=S(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {1-[Imino-(4-methoxy-2,3,6-trimethyl-benzenesulfonylamino)-methyl]-2-oxo-piperidin-3-yl}-carbamic Acid tert-butyl Ester | C(C)(C)(C)OC(NC1C(N(CCC1)C(NS(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)=N)=O)=O | C21H32N4O6S
